US06613942B1
N-(4-Hydroxymethyl-3-methoxyphenyl)-2-(3-trifluoromethylphenyl)acetamide (0.7 g, 2 mmol) was dissolved in ethyl acetate (40 mL) and manganese dioxide (3 g, 34 mmol) was added. The reaction mixture was stirred at 20° C. for 3 hr and filtered. The organic phase was concentrated in vacuo to give crude N-(4-formyl-3-methoxyphenyl)-2-(3-trifluoromethylphenyl)acetamide that was used for the next step without further purification.

reactant | N-(4-Hydroxymethyl-3-methoxyphenyl)-2-(3-trifluoromethylphenyl)acetamide | 2 mmol, 0.7 g | OCC1=C(C=C(C=C1)NC(CC1=CC(=CC=C1)C(F)(F)F)=O)OC | C17H16F3NO3
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 34 mmol, 3 g | [O-2].[O-2].[Mn+4]
product | N-(4-formyl-3-methoxyphenyl)-2-(3-trifluoromethylphenyl)acetamide | C(=O)C1=C(C=C(C=C1)NC(CC1=CC(=CC=C1)C(F)(F)F)=O)OC | C17H14F3NO3
